Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
NSTEMI
 
Major Surgical or Invasive Procedure:
coronary catheterization

 
History of Present Illness:
Mr. ___ is a ___ year old man with h/o HTN, HIV and HCV 
cirrhosis c/b portal HTN, who complains of anterior substernal 
chest pressure intermittently over the last 3 days. Pain has 
been occurring up to ___ times per day, lasting 30 minutes at a 
time. The pain is nonradiating and not a/w exertion; no 
associated nausea/vomiting/diaphoresis. Patient initially 
believed the pain was due to GERD which has had in the past. 
However, today while waiting for the bus he experienced acute 
onset of more severe substernal chest pain associated with 
dizziness and lightheadedness. He called EMS. PTA received ASA 
324mg, NTG SL sprays which brought pain from an 8 to a 6. 
Received one SL NTG which did not relieve pain at all. Given 
Morphine 4mg IV which made him chest pain free.
.
In the ED, initial vitals were 92 146/80 20 98%. Labs and 
imaging significant for Trop 0.13. EKG showed ST elevations in 
leads V1 - V3 (consistent with prior), but new TWI in leads 2, 3 
and AVF. He was bolused with Heparin and started on Heparin gtt. 
Sent to cath lab where was found to have complete occlusion of 
RCA and tight lesions in LAD and upper pole of diag; DES placed 
in all 3 arteries.
.
On arrival to the floors, initial vitals are 71 158/87 18 100% 
RA. Patient feels well. Chest pain free. Denies SOB. Denies pain 
at cath site.
 
Past Medical History:
HTN
 HIV
Hepatitis C cirrhosis c/b portal HTN
Chronic Renal Failure
Cervical Stenosis s/p surgical procedure in ___
COPD
Colonic Polyps
Anemia of Chronic Disease 
Bilateral Cataracts
Scrotal Varicocele/Hydrocele
Erectile Dysfunction
Peripheral Neuropathy
G6PD defeciency
?h/o TB ___ - while working at ___, treated for 9 mos 
RPR + in ___ treated 
 
 
Social History:
___
Family History:
Brother - TB
Mother - heart problems 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
.
VS: T= BP=158/87 HR=71 RR=18 O2 sat=100% RA
GENERAL: thin AAM in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with no JVD.
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.
LUNGS: CTAB, no crackles, wheezes or rhonchi. No chest wall 
deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use.
ABDOMEN: soft, nontender, nondistended. +BS/ Liver span 6 
inches. Abd aorta not enlarged by palpation. No abdominal 
bruits.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
.
DISCHARGE PHYSICAL EXAM:
.
VS: Tm=99.4 Tc=97.7 BP=139/73 [137-160/73-84] ___ RR=18 O2 
sat=100% RA
GENERAL: thin AAM in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with no JVD.
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.
LUNGS: CTAB, no crackles, wheezes or rhonchi. No chest wall 
deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use.
ABDOMEN: soft, nontender, nondistended. +BS/ Liver span 6 
inches. Abd aorta not enlarged by palpation. No abdominal 
bruits.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: ___ 2+ equal bilaterally.
 
Pertinent Results:
ADMISSION LABS:
.
___ 10:55AM BLOOD WBC-5.2 RBC-3.54* Hgb-11.5* Hct-32.9* 
MCV-93 MCH-32.5* MCHC-35.0 RDW-12.6 Plt ___
___ 10:55AM BLOOD Neuts-20.9* Bands-0 Lymphs-70.7* 
Monos-4.5 Eos-3.1 Baso-0.8
___ 10:55AM BLOOD Glucose-128* UreaN-17 Creat-1.3* Na-136 
K-5.0 Cl-105 HCO3-22 AnGap-14
___ 10:55AM BLOOD cTropnT-0.13*
.
DISCHARGE LABS:
.
___ 03:03AM BLOOD WBC-4.7 RBC-3.11* Hgb-10.0* Hct-29.1* 
MCV-94 MCH-32.2* MCHC-34.4 RDW-12.3 Plt ___
___ 03:03AM BLOOD Plt ___
___ 03:03AM BLOOD Glucose-100 UreaN-16 Creat-1.3* Na-138 
K-4.4 Cl-107 HCO3-23 AnGap-12
___ 03:03AM BLOOD ALT-82* AST-92* AlkPhos-69 TotBili-0.4
___ 03:03AM BLOOD CK-MB-8
___ 03:03AM BLOOD Calcium-9.2 Phos-2.9 Mg-1.7 Cholest-156
___ 03:03AM BLOOD %HbA1c-5.4 eAG-108
___ 03:03AM BLOOD Triglyc-126 HDL-54 CHOL/HD-2.9 LDLcalc-77
.
CATH REPORT (___):
.
1. Selective coronary angiography in this right dominant system
demonstrated two vessel coronary artery disease. The LMCA was 
patent.
The LAD had an 80% stenosis mid-vessel and a bifurcating D1 with 
90%
stenosis at the upper pole and 70% at the lower pole. The LCX 
had no
angiographically apparent coronary disease. The RCA had a 95% 
distal
lesion before the bifurcation.
2. Limited resting hemodynamics revealed systemic arterial 
systolic
hypertension (SBP 172 mmHg).

 
FINAL DIAGNOSIS:    
1. Two vessel coronary artery disease.
2. Systolic hypertension.

POST-CATH ECHO (___):
.
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF 70%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

Compared with the findings of the prior study (images reviewed) 
of ___, resting findings are similar. 
 
Brief Hospital Course:
1. NSTEMI: Patient presented with chest pain and elevated 
troponin, as well as EKG showing new TWI in leads 2, 3 and AVF. 
He was bolused with Heparin and started on Heparin gtt. Sent to 
cath lab where was found to have complete occlusion of RCA and 
tight lesions in LAD and upper pole of diag. Drug-eluting stents 
were placed in the RCA, LAD and upper pole of diagonal branch. 
After the procedure, patient was chest-pain free. He was started 
on ASA 325, Plavix 75mg daily, and Metoprolol. As the patient 
had elevated Cr 1.3, he was not started on Lisinopril at this 
time. He was also started on a low-dose statin rather than the 
usual high-dose statin for post-MI cardioprotection as he has 
history of Hep C cirrhosis. 
.
2. HYPERTENSION: Patient was switched from Amlodipine to 
Metoprolol during admission as Metoprolol has improved survival 
benefits post-MI. 
.
3. COPD: stable on home combivent
.
4. HIV: per patient, viral loads have been undetectable. Last 
___ record from ___ shows undetectable viral loads. Continued 
on home HAART regimen. Patient follows up with outpatient 
provider ___ 4 months.
.
5. HCV cirrhosis: inactive problem during this admission. 
However as he was started on low-dose statin during 
hospitalization will need LFTs checked again as outpatient 

TRANSITION OF CARE:
-___ need LFTs checked as outpatient due to starting low dose 
statin
 
Medications on Admission:
Abacavir 450mg PO BID
Epivir 150mg PO daily
Sustiva 600mg PO daily
Combivent 2 puffs TID
Amlodipine 10mg daily
ASA 81mg PO daily
Omeprazole 20mg PO daily
MVI
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. efavirenz 600 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. abacavir 300 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

5. lamivudine 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation three times a day.  
7. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
9. multivitamin  Oral
10. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: NSTEMI 
SECONDARY DIAGNOSIS: hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were admitted to the hospital with chest pain. You were 
found to have a heart attack. You had a cardiac catheterization 
where they found a blocked artery in your heart. You had a drug 
eluting stent placed to open up the artery.
  
The following changes were made to your medications:
#. START Aspirin 325mg by mouth daily
#. START Plavix 75mg by mouth daily
#. START Simvastatin 10mg by mouth daily
#. START Metoprolol succinate 100my by mouth daily
#. STOP Amlodipine 10mg daily

 
Followup Instructions:
___